US07202249B2
Boc-piperazine (122 mg, 0.65 mmol) was added to the solution of (2-Chloro-pyrido[2,3-d]pyrimidin-4-yl)-(2,4-dichloro-benzyl)-amine(185 mg, 0.54 mmol) and N,N-diisopropylethylamine (145 μL, 0.82 mmol) in n-butanol (2 mL). The reaction mixture was stirred at 85° for 10 h. All starting material was consumed as seen on HPLC. The reaction mixture was concentrated at room temperature under vacuo. The resulting residue was suspended in 2 mL of TFA-CH2Cl2 (1:1) mixture and stirred at room temperature for 45 minutes. The reaction mixture was concentrated in vacuo, diluted with saturated aqueous sodium bicarbonate solution. The aqueous layer was extracted with CH2Cl2 (2×10 mL), dried (Na2SO4) and concentratd to furnish (2,4-Dichloro-benzyl)-(2-piperazin-1-yl-pyrido[2,3-d]pyrimidin-4-yl)-amine(210 mg) as pale brown oil. The crude was carried forward as such in the next reaction.

reactant | Boc-piperazine | 0.65 mmol, 122 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | (2-Chloro-pyrido[2,3-d]pyrimidin-4-yl)-(2,4-dichloro-benzyl)-amine | 0.54 mmol, 185 mg | ClC=1N=C(C2=C(N1)N=CC=C2)NCC2=C(C=C(C=C2)Cl)Cl | C14H9Cl3N4
reactant | N,N-diisopropylethylamine | 0.82 mmol, 145 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | (2,4-Dichloro-benzyl)-(2-piperazin-1-yl-pyrido[2,3-d]pyrimidin-4-yl)-amine | 210 mg | ClC1=C(CNC=2C3=C(N=C(N2)N2CCNCC2)N=CC=C3)C=CC(=C1)Cl | C18H18Cl2N6
